Power submodule regulation testbench
.include models.lib

* 12V input source
V1 VIN_12V GND DC 12

* U1: 12V -> 5V, loaded at 3.0A min spec (5V / 1.667ohm = 3.0A)
X1 VIN_12V GND PLUS5V REG PARAMS: VSET=5.0 RS=0.005
Rload5 PLUS5V GND 1.667

* U2: 5V -> 3.3V, loaded at 0.5A min spec (3.3V / 6.6ohm = 0.5A)
X2 PLUS5V GND PLUS3V3 REG PARAMS: VSET=3.3 RS=0.02
Rload3 PLUS3V3 GND 6.6

.control
op
print v(PLUS5V)
print v(PLUS3V3)
.endc
.end
